US06984657B1
iii) Ethyl 5-acetoxy-N-(3-methoxy-4-chlorobenzyl)indole-2-carboxylate
To a solution of ethyl 5-acetoxyindole-2-carboxylate (283 mg) in DMF (6 ml) was added sodium hydride (54 mg, 60% dispersion in oil). The mixture was stirred for 30 minutes, a catalytic amount of potassium iodide and a solution of 3-methoxy-4-chlorobenzyl bromide (345 mg) in DMF (2 ml) was added. The mixture was stirred for 2 hours, quenched with water and extracted with ethyl acetate. The organic extracts were dried, evaporated and the resulting gum was purified by column chromatography elutig with 20% ethyl acetate/isohexane to give the desired product as an oil which solidified on standing (310 mg, 63%). NMR (CDCl3): d 1.4 (t, 3H), 2.3 (s, 3H), 3.8 (s, 3H), 4.35 (q, 2H, 5.8 (s, 2H), 6.5 (dd, 1H), 6.7 (d, 1H), 7.05 (dd, 1H), 7.2-7.4 (m, 4H); m/z 402 (M+H+).

reactant | ethyl 5-acetoxyindole-2-carboxylate | 283 mg | C(C)(=O)OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C13H13NO4
reactant | sodium hydride | 54 mg | [H-].[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | 3-methoxy-4-chlorobenzyl bromide | 345 mg | COC=1C=C(CBr)C=CC1Cl | C8H8BrClO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | Ethyl 5-acetoxy-N-(3-methoxy-4-chlorobenzyl)indole-2-carboxylate | C(C)(=O)OC=1C=C2C=C(N(C2=CC1)CC1=CC(=C(C=C1)Cl)OC)C(=O)OCC | C21H20ClNO5
